US07691842B2
Step 1: Preparation of (8-Methyl-6,7-dihydro-5H-cyclopenta[d][1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-methanol
To a round bottomed flask was loaded 3.78 grams of 2-acetylcyclopentanone, 3.52 grams of (5-Amino-1H-[1,2,4]triazol-3-yl)-methanol and 50 ml 2-methoxyethanol. The mixture was refluxed for 18 hours. Then it was cooled down to 23° C. and concentrated to 5 ml. Then 50 ml ethyl ether was added and the precipitate was filtered and vacuum dried to yielded 2.0 grams of product. This compound was used directly for the next step. MS: 205.2 (M+H). H-NMR (DMSO): δ 5.55 (t, 1H, OH, J=6.2 Hz), 4.63 (d, 2H, J=6.2 Hz), 3.28 (m, 2H), 3.02 (t, 2H, CH2, J=6.8 Hz), 2.51 (s, 3H, CH3), 2.27 (m, 2H, CH2).

reactant | 2-acetylcyclopentanone | 3.78 grams | C(C)(=O)C1C(CCC1)=O | C7H10O2
reactant | (5-Amino-1H-[1,2,4]triazol-3-yl)-methanol | 3.52 grams | NC1=NC(=NN1)CO | C3H6N4O
solvent | 2-methoxyethanol | 50 ml | COCCO | C3H8O2
product | (8-Methyl-6,7-dihydro-5H-cyclopenta[d][1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-methanol | 2.0 grams | CC1=C2C(=NC=3N1N=C(N3)CO)CCC2 | C10H12N4O
